US07342014B2
Methyl 1-(hydroxymethyl)cyclopropanecarboxylate
The compound (9.0 g) obtained in Referential Example 161 and triethylamine (9.7 ml) were dissolved in tetrahydrofuran (180 ml), and the solution was cooled to −10° C., to which isobutyl chloroformate (9.1 ml) was added dropwise, and the resultant mixture was stirred for 1 hour. On the other hand, sodium borohydride (7.1 g) was dissolved in tetrahydrofuran (100 ml)-water (25 ml) and cooled with ice. While removing insoluble matter by filtration, the solution prepared previously was added dropwise, and the resultant mixture was stirred at the same temperature for 1 hour. The reaction mixture was poured into a cooled 10% aqueous solution of citric acid to conduct extraction with ethyl acetate. After the extract was washed with saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The resultant residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:9-2:1) to obtain the title compound (4.25 g).

reactant | triethylamine | 9.7 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 9.1 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 7.1 g | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 25 ml | O | H2O
product | Methyl 1-(hydroxymethyl)cyclopropanecarboxylate | 4.25 g | OCC1(CC1)C(=O)OC | C6H10O3
